### PR TITLE
feat: monotonicity of gradient on convex real-valued functions

### PR DESCRIPTION
**Pull request by chenyili0818**
This file is based on Mathlib.Analysis.Calculus.Gradient.Basic, and describes the calculation properties

co-authored-by: Ziyu Wang [tropicalfish910@gmail.com](mailto:tropicalfish910@gmail.com)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 1]
```diff
@@ -0,0 +1,541 @@
...
+
+This file contains the following parts of smooth convex functions.
+* (First Order Condition for convex functions)
+    Function f(x) is convex if and only if for any x, y ∈ s, f(y) ≥ f(x) + f'(x) (y - x)
+* (Monotonity of Gradient)
+    Function f(x) is convex if and only if its gradient is monotone, i.e.
+    for any x, y ∈ s, (f'(x) - f'(y)) (x - y) ≥ 0
+* (Corresponding Result for strict convex functions)
+    Function f(x) is convex if and only if its gradient is strictly monotone, i.e.
+    for any x, y ∈ s, x ≠ y, (f'(x) - f'(y)) (x - y) ≥ 0
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:23]: Did you mean `>` here for "strictly"? I would also suggest using backticks so that your formulas will render as code on the docs page. Or you can use LaTeX with dollar signs.

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 2]
```diff
@@ -0,0 +1,541 @@
...
+import Mathlib.Analysis.Convex.Function
+import Mathlib.Analysis.Calculus.MeanValue
+import Mathlib.Analysis.Calculus.Gradient.Basic
+
+/-!
+## Main results
+
+This file contains the following parts of smooth convex functions.
+* (First Order Condition for convex functions)
+    Function f(x) is convex if and only if for any x, y ∈ s, f(y) ≥ f(x) + f'(x) (y - x)
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:17]: Using colon instead of brackets here. Isn't there also a convexity condition on the set `s`?
```suggestion
* First Order Condition for convex functions: function `f(x)` is convex if and only if for any `x, y ∈ s`, `f(y) ≥ f(x) + f'(x) (y - x)`.
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 3]
```diff
@@ -0,0 +1,541 @@
...
+Both results are stated in a gradient version and a fderiv version.
+-/
+
+variable {E : Type*} [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpace E]
+
+section FirstOrderCondition
+
+open InnerProductSpace
+
+variable {f : E → ℝ} {f' : E → (E →L[ℝ] ℝ)} {x y x': E} {s : Set E}
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:34]: Certainly good for clarity while you're coding, but when presented, we can remove these brackets because function type notation is right-associative.
```suggestion
variable {f : E → ℝ} {f' : E → E →L[ℝ] ℝ} {x y x': E} {s : Set E}
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 4]
```diff
@@ -0,0 +1,541 @@
...
+    calc
+      x - x' = x - (a • x + b • y):= by rw [hpoint]
+      _ = x - a • x - b • y:= sub_add_eq_sub_sub x (a • x) (b • y)
+      _ = (1 : ℝ) • x - a • x - b • y:= by rw[one_smul]
+      _ = (1 - a) • x - b • y:= by rw[sub_smul 1 a]
+      _ = b • x - b • y:= by rw [← sumab]; ring_nf
+      _ = b • (x - y):= Eq.symm (smul_sub b x y)
+
+theorem first_order_condition (h : HasFDerivAt f (f' x) x) (hf : ConvexOn ℝ s f)
+    (xs : x ∈ s) : ∀ (y : E), y ∈ s → f x + f' x (y - x) ≤ f y := by
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:47]: The separate spelling for `x` and `y` assumptions could be confusing. The following is much cleaner, especially when you already have a (y : E) declared above.
```suggestion
    (xs : x ∈ s) (hy : y ∈ s) : f x + f' x (y - x) ≤ f y := by
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 5]
```diff
@@ -0,0 +1,541 @@
...
+  have H7: - ε * b / 2 ≤ - b * ε := by linarith
+  have H8: - ε * b / 2 + b * ε ≤ 0 := by linarith
+  have blt: 0 < b:= by apply lt_min; apply b1pos; apply zero_lt_one
+  have H10: ε * b ≤ 0:= by linarith
+  have H11: ε ≤ 0:= nonpos_of_mul_nonpos_left H10 blt
+  linarith
+
+theorem first_order_condition_inverse
+    (h : ∀ x ∈ s, HasFDerivAt f (f' x) x) (h₁: Convex ℝ s)
+    (h₂: ∀ (x : E), x ∈ s → ∀ (y : E), y ∈ s → f x + f' x (y - x) ≤ f y): ConvexOn ℝ s f := by
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:168]: When writing predicates inline, you can shorten them by using the same notational trick as in `h` in the line above:
```suggestion
    (h₂: ∀ x ∈ s, ∀ y ∈ s, f x + f' x (y - x) ≤ f y): ConvexOn ℝ s f := by
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 6]
```diff
@@ -0,0 +1,541 @@
...
+theorem first_order_condition_iff' (h₁ : Convex ℝ s) (h : ∀ x ∈ s, HasGradientAt f (f' x) x) :
+    ConvexOn ℝ s f ↔ ∀ x : E,
+    x ∈ s → ∀ y: E, y ∈ s → f x + inner (f' x) (y - x) ≤ f y :=
+  ⟨ fun h₂ x xs ↦ first_order_condition' (h x xs) h₂ xs, first_order_condition_inverse' h h₁ ⟩
+
+theorem lagrange (hs : Convex ℝ s) (hf : ∀ x ∈ s, HasGradientAt f (f' x) x) :
+    ∀ x ∈ s, ∀ y ∈ s, ∃ c : ℝ, c ∈ Set.Ioo 0 1 ∧
+    inner (f' (x + c • (y - x))) (y - x) = f y - f x := by
+  intro x xs y ys
+  let g := fun t : ℝ ↦ f (x + t • (y - x))
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:268]: A trick I learnt recently:
```suggestion
  let g (t : ℝ) := f (x + t • (y - x))
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 7]
```diff
@@ -0,0 +1,541 @@
...
+    have : u - v = 0 := by rw [h]; simp
+    rw [usubv, smul_eq_zero] at this;
+    contrapose! this
+    constructor
+    · linarith
+    · rw [sub_ne_zero]; symm; exact xney
+  linarith
+
+theorem strict_convex_monotone_gradient (hf : ∀ x ∈ s, HasGradientAt f (f' x) x)
+    (h₁ : StrictConvexOn ℝ s f ) :
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:482]: There are quite a few of these extra spaces throughout the file that you should remove eventually.
```suggestion
    (h₁ : StrictConvexOn ℝ s f) :
```

**Comment by winstonyin** [comment]
Hi again! I looked very briefly at this file. Good job making these long inequality proofs compile! There may be a suitable generalisation of these theorems to (not necessarily reflexive) Banach spaces, but for a first attempt this may be sufficient. I found [this thread](https://math.stackexchange.com/questions/111767/is-every-monotone-map-the-gradient-of-a-convex-function) that cites a paper that may be relevant. Perhaps you can start a thread on Zulip so that somebody more experienced can chime in!

As it stands, the file still needs some cleanup to be properly reviewed. I left some minor style comments, but the major work remaining is to somehow shorten all the long proofs. A lot of the `have` statements can probably be turned into `calc` blocks or `rw`s. Steps that can be extracted into separate lemmas should be done so liberally, as this is a primary way for mathlib to grow mature for future users. To help yourself and reviewers follow the proofs, please leave copious comments detailing the proof steps and marking places that seem needlessly tedious, which can of course be removed at the end. I've shortened 100-line proofs down to 30 just by revisiting then every other day to look for areas of optimisation. It's kind of fun.

When I find the time, I'll try to look at some of your steps and suggest how to golf them, but I hope you can try it yourself first. Happy coding/golfing!

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 8]
```diff
@@ -0,0 +1,541 @@
...
+  have b_nonneg: 0 ≤ b := le_min (LT.lt.le b1pos) zero_le_one
+  have a_nonneg : 0 ≤ a := by
+    have h1: 0 + b ≤ a + b := by
+      rw[zero_add, sum_a_b]
+      exact min_le_right b1 1
+    rw[add_le_add_iff_right b] at h1
+    exact h1
+  specialize cxf a_nonneg b_nonneg sum_a_b
+  let x' := a • x + b • y
+  have x'rfl : x' = a • x + b • y := rfl
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:105]: There's a nice tactic for precisely this. I would call the equality statement `hx'` or something starting with `h` instead of `x'rfl`.
```suggestion
  set x' := a • x + b • y with x'rfl
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 9]
```diff
@@ -0,0 +1,541 @@
...
+theorem first_order_condition (h : HasFDerivAt f (f' x) x) (hf : ConvexOn ℝ s f)
+    (xs : x ∈ s) : ∀ (y : E), y ∈ s → f x + f' x (y - x) ≤ f y := by
+  have h₁ : ∀ ε > (0 : ℝ), ∃ δ > (0 : ℝ), ∀ (x' : E), ‖x - x'‖ ≤ δ
+       → ‖f x' - f x - (f' x) (x' - x)‖ ≤ ε * ‖x - x'‖:= by
+    rw [HasFDerivAt, hasFDerivAtFilter_iff_isLittleO, Asymptotics.isLittleO_iff] at h
+    intro ε epos
+    specialize h epos
+    rw [Filter.Eventually] at h
+    let t := {x_1 | ‖f x_1 - f x - (f' x) (x_1 - x)‖ ≤ ε * ‖x_1 - x‖}
+    have h₁: ∃ ε1 > (0 : ℝ), Metric.ball x ε1 ⊆ t := Iff.mp Metric.mem_nhds_iff h
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:55]: Use dot notation. Same goes for `Iff.mpr` used below in a couple places.
```suggestion
    have h₁: ∃ ε1 > (0 : ℝ), Metric.ball x ε1 ⊆ t := Metric.mem_nhds_iff.mp h
```

File: Mathlib/Analysis/Convex/ConvexFunction.lean [hunk 10]
```diff
@@ -0,0 +1,541 @@
...
+  have npos: 0 < 2 * ‖x - y‖ := mul_pos two_pos h₃
+  have e1pos: 0 < e1:= div_pos epos npos
+  specialize h₁ e1 e1pos
+  rcases h₁ with ⟨δ , dpos, converge⟩
+  let b1 := δ / ‖x - y‖
+  have b1pos: 0 < b1 := div_pos dpos h₃
+  let b := min b1 (1 : ℝ)
+  let a := 1 - b
+  have sum_a_b : a + b = 1:= sub_add_cancel 1 b
+  have b_nonneg: 0 ≤ b := le_min (LT.lt.le b1pos) zero_le_one
```
Comment (winstonyin) [inline Mathlib/Analysis/Convex/ConvexFunction.lean:96]: More dot notation
```suggestion
  have b_nonneg: 0 ≤ b := le_min b1pos.le zero_le_one
```

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
